US06495546B1
N-Benzyl-(2-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine hydrochloride was converted to the corresponding free base in a usual manner. A mixture of (2S)-3-phenoxy-1,2-epoxypropane (75 mg), N-benzyl-(2-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl) amine (140 mg), and ytterbium(III) trifluoromethanesulfonate (93 mg) in toluene (2.6 ml) was stirred at room temperature for 3 days and partitioned between ethyl acetate and aqueous sodium bicarbonate. The organic layer was separated, washed with brine, dried over sodium sulfate, and evaporated in vacuo. The residue was chromatographed (dichloromethane-methanol) over silica gel to afford (2S)-1-[N-benzyl-N-(2-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amino]-3-phenoxy-2-propanol (200 mg).

reactant | N-Benzyl-(2-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine hydrochloride | Cl.C(C1=CC=CC=C1)NC1CC2=C(CCC1)C=C(C=C2)OC
reactant | (2S)-3-phenoxy-1,2-epoxypropane | 75 mg | O(C1=CC=CC=C1)C[C@@H]1CO1 | C9H10O2
reactant | N-benzyl-(2-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl) amine | 140 mg | C(C1=CC=CC=C1)NC1CC2=C(CCC1)C=C(C=C2)OC | C19H23NO
reactant | ytterbium(III) trifluoromethanesulfonate | 93 mg | FC(S(=O)(=O)[O-])(F)F.[Yb+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
solvent | toluene | 2.6 ml | C1(=CC=CC=C1)C | C7H8
product | (2S)-1-[N-benzyl-N-(2-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amino]-3-phenoxy-2-propanol | 200 mg | C(C1=CC=CC=C1)N(C1CC2=C(CCC1)C=C(C=C2)OC)C[C@@H](COC2=CC=CC=C2)O | C28H33NO3
